US07932271B2
Methyl 3-[6-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-3-yl]propionate
Methyl 3-[6-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-3-yl]acrylate (160 mg, 0.34 mmol) was dissolved in ethanol (15 ml). To the resulting solution was added palladium carbon (30 mg). The resulting mixture was vigorously stirred under a hydrogen atmosphere of 1 atmospheric pressure for 24 hours. After the reaction mixture was filtered, the filtrate was concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=5:1) to give the title compound (94 mg, 58%) as needle crystals.

reactant | Methyl 3-[6-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-3-yl]acrylate | 0.34 mmol, 160 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=N1)C=CC(=O)OC)C1=C(C=CC(=C1)F)F | C22H16ClF2NO4S
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium carbon | 30 mg | [C].[Pd]
product | Methyl 3-[6-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-3-yl]propionate | 94 mg, 58% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=N1)CCC(=O)OC)C1=C(C=CC(=C1)F)F | C22H18ClF2NO4S
